US05290957
4.2 g (20.3 mmol) of t-butyl benzylcarbamate, 40 cm3 of anhydrous tetrahydrofuran and 6.5 cm3 (5.0 g, 43 mmol) of tetramethylethylenediamine (TMEDA) are introduced successively into a 250 cm3 single-necked flask placed under argon and equipped with a magnetic stirring system. The solution obtained is cooled to 78° C. and 60 cm3 (60 mmol) of a 1M solution of secondary butyllithium in hexane are then added dropwise. The reaction is left to proceed for 3 hours at this temperature and the mixture is then cooled to -100° C. 3 cm3 (2.5 g, 44.9 mmol) of freshly distilled acrolein are then added and the reaction is left to proceed for 3 to 4 minutes at this temperature and then for 1 hour at -78° C. The resulting reaction mixture is hydrolyzed at -78° C. with 20 cm3 of water and then extracted with 2 times 30 cm3 of ether. The organic phases are combined and then washed twice with 20 cm3 of water and once with 10 cm3 of a saturated aqueous solution of sodium chloride. They are then dried over anhydrous sodium sulphate. After filtration, the solvents are driven off under reduced pressure. The residue obtained (11.6 g) is purified on a column of silica gel using a methylene chloride/ether mixture (95/5 by volume) as the eluent. 2.606 g (9.91 mmol) of 1-phenyl-1-t-butoxycarbonylamino-2-hydroxybut-3-ene are obtained with a yield of 49% in the form of a mixture of the syn and anti diastereoisomers in a ratio of 6/1.

reactant | t-butyl benzylcarbamate | 20.3 mmol, 4.2 g | C(C1=CC=CC=C1)NC(OC(C)(C)C)=O | C12H17NO2
reactant | tetramethylethylenediamine | 43 mmol, 6.5 cm3, 5.0 g | CN(CCN(C)C)C | C6H16N2
reactant | secondary butyllithium | C(C)(CC)[Li]
reactant | acrolein | C(=O)C=C | C3H4O
solvent | hexane | CCCCCC | C6H14
solvent | water | 20 cm3 | O | H2O
solvent | tetrahydrofuran | 40 cm3 | O1CCCC1 | C4H8O
product | 1-phenyl-1-t-butoxycarbonylamino-2-hydroxybut-3-ene | 9.91 mmol, 2.606 g, yield of 49% | C1(=CC=CC=C1)C(C(C=C)O)NC(=O)OC(C)(C)C | C15H21NO3
